US09169245B2
Step 1: Synthesis of methyl 3-[(2-fluoroanilino)methyl]benzoate (Intermediate 17)
To a stirred solution of methyl 3-formylbenzoate (1 g, 6.092 mmol) in anhydrous DCM (30 mL) was added 2-fluoroaniline (0.620 mL, 6.396 mmol) followed by glacial acetic acid (0.350 mL, 6.092 mmol). The reaction was stirred at room temperature for 18 hours. Sodium triacetoxyborohydride (3.23 g, 15.23 mmol) was added, and the reaction was stirred at room temperature for 3 hours. Water was added to quench the reaction, and the mixture was diluted with DCM. The organic layer was washed with brine, passed through a hydrophobic fit and the solvent was removed in vacuo to afford the title compound as a yellow oil (1.57 g, quantitative yield).

reactant | methyl 3-formylbenzoate | 6.092 mmol, 1 g | C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H8O3
reactant | 2-fluoroaniline | 6.396 mmol, 0.620 mL | FC1=C(N)C=CC=C1 | C6H6FN
reactant | acetic acid | 6.092 mmol, 0.350 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 15.23 mmol, 3.23 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | methyl 3-[(2-fluoroanilino)methyl]benzoate | 1.57 g, quantitative yield | FC1=C(NCC=2C=C(C(=O)OC)C=CC2)C=CC=C1 | C15H14FNO2
